US05391556
4-Amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-carboxy-piperidin-1-yl)-2-oxo-ethyl]-3,5-dichlorobenzenesulphonamide
Prepared from 4-amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-carbethoxy-piperidin-1-yl)-2-oxo-ethyl]-3,5-dichloro-benzenesulphonamide and 1N sodium hydroxide solution analogously to Example 24.

reactant | 4-amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-carbethoxy-piperidin-1-yl)-2-oxo-ethyl]-3,5-dichloro-benzenesulphonamide | NC1=C(C=C(C=C1Cl)S(=O)(=O)NC(C(=O)N1CCC(CC1)C(=O)OCC)CC1=CC2=C(NC=N2)C=C1)Cl | C24H27Cl2N5O5S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
product | 4-Amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-carboxy-piperidin-1-yl)-2-oxo-ethyl]-3,5-dichlorobenzenesulphonamide | NC1=C(C=C(C=C1Cl)S(=O)(=O)NC(C(=O)N1CCC(CC1)C(=O)O)CC1=CC2=C(NC=N2)C=C1)Cl | C22H23Cl2N5O5S
